US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridin-2-yl]carbonyl]piperazine hydrochloride
To a solution of 1-[[6-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]piperazine (100 mg) in methylene chloride (3.0 ml) was added trifluoroacetic acid (3.0 ml) at room temperature, followed by stirring for 15 minutes. The reaction mixture was concentrated under reduced pressure. To the residue were added methylene chloride (4.0 ml), triethylamine (50.0 μl), acetic acid (21.0 μl), formalin (23.5 μl) and sodium triacetoxyborohydride (58.0 mg) at room temperature. After stirring for 1 hour, methylene chloride (20 ml) and a saturated aqueous solution (50 ml) of sodium bicarbonate were added to the reaction mixture to separate it into layers. The water layer was extracted with methylene chloride (20 ml). The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by preparative thin-layer chromatography (chloroform : methanol=10:1) using silica gel, whereby the free form (82.6 mg) of the title compound was obtained as a colorless solid. To the resulting compound were added a 1N aqueous solution of hydrochloric acid, tetrahydrofuran and methanol, followed by concentration under reduced pressure, whereby the title compound was obtained as a colorless solid.

reactant | 1-[[6-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]piperazine | 100 mg | C(C)(C)(C)OC(=O)C1CC2=C(CN1)OC(=N2)C(=O)N2CCN(CC2)S(=O)(=O)C=2NC1=CC=C(C=C1C2)Cl | C24H28ClN5O6S
reactant | trifluoroacetic acid | 3.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-4-[(6-methyl-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridin-2-yl]carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C=1OC=2CNC(CC2N1)C | InChI=1S/C20H22ClN5O4S.ClH/c1-12-8-16-17(11-22-12)30-19(24-16)20(27)25-4-6-26(7-5-25)31(28,29)18-10-13-9-14(21)2-3-15(13)23-18;/h2-3,9-10,12,22-23H,4-8,11H2,1H3;1H
